US06046207
Methy 7-amino-2-(3-pyridyl)thieno[2,3-b]pyrazine-6-carboxylate
A solution of the methyl 7-amino-2-chloro-thieno[2,3-b]pyrazine-6carboxylate prepared as described in Example 10C (0.468 g), diethyl(3-pyridyl)borane (0.293 g), Pd(dppf)Cl2 (0.157 g), and K2CO3 (0.800 g) in degassed DMF (10 mL) was heated to 95° C. for 1.5 h, cooled, quenched in sat'd NH4Cl, the solid precipitate collected, washed with water and dried. Purification by silica gel column chromatographed provided 0.44 g (80%) of the title compound. 1H NMR (DMSO-d6) δ 3.87 (3H, s), 7.25 (2H, br s), 7.6 (1H, dd), 8.75 (2H, m), 9.49 (1H, s), 9.58 (1H, m).

reactant | methyl 7-amino-2-chloro-thieno[2,3-b]pyrazine-6carboxylate | NC1=C(SC2=NC=C(N=C21)Cl)C(=O)OC | C8H6ClN3O2S
reactant | diethyl(3-pyridyl)borane | 0.293 g | C(C)B(C=1C=NC=CC1)CC | C9H14BN
reactant | K2CO3 | 0.800 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
catalyst | Pd(dppf)Cl2 | 0.157 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | Methy 7-amino-2-(3-pyridyl)thieno[2,3-b]pyrazine-6-carboxylate | 0.44 g, 80% | NC1=C(SC2=NC=C(N=C21)C=2C=NC=CC2)C(=O)OC | C13H10N4O2S
